* NGSPICE file created from user_project_wrapper.ext - technology: ihp-sg13g2

* Black-box entry subcircuit for sg13g2_Filler400 abstract view
.subckt sg13g2_Filler400 iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for bondpad_70x70_novias abstract view
.subckt bondpad_70x70_novias pad
.ends

* Black-box entry subcircuit for sg13g2_Filler4000 abstract view
.subckt sg13g2_Filler4000 iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadIOVdd abstract view
.subckt sg13g2_IOPadIOVdd iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadAnalog abstract view
.subckt sg13g2_IOPadAnalog iovdd iovss pad padres vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadIn abstract view
.subckt sg13g2_IOPadIn iovdd iovss p2c pad vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadOut30mA abstract view
.subckt sg13g2_IOPadOut30mA c2p iovdd iovss pad vdd vss
.ends

* Black-box entry subcircuit for sg13g2_Filler1000 abstract view
.subckt sg13g2_Filler1000 iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadVdd abstract view
.subckt sg13g2_IOPadVdd iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadIOVss abstract view
.subckt sg13g2_IOPadIOVss iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_IOPadVss abstract view
.subckt sg13g2_IOPadVss iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_Corner abstract view
.subckt sg13g2_Corner iovdd iovss vdd vss
.ends

* Black-box entry subcircuit for sg13g2_Filler200 abstract view
.subckt sg13g2_Filler200 iovdd iovss vdd vss
.ends

.subckt user_project_wrapper IOVDD IOVSS VDD VSS analog_io[0] analog_io[10] analog_io[11]
+ analog_io[12] analog_io[13] analog_io[14] analog_io[15] analog_io[16] analog_io[17]
+ analog_io[18] analog_io[19] analog_io[1] analog_io[2] analog_io[3] analog_io[4]
+ analog_io[5] analog_io[6] analog_io[7] analog_io[8] analog_io[9] ui_PAD[0] ui_PAD[1]
+ ui_PAD[2] ui_PAD[3] ui_PAD[4] ui_PAD[5] ui_PAD[6] uo_PAD[0] uo_PAD[1] uo_PAD[2]
+ uo_PAD[3] uo_PAD[4] uo_PAD[5] uo_PAD[6] uo_PAD[7] uo_PAD[8]
XIO_FILL_IO_NORTH_1_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[12\].io analog_io[12] bondpad_70x70_novias
XIO_FILL_IO_NORTH_4_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[2\].io analog_io[2] bondpad_70x70_novias
XIO_FILL_IO_SOUTH_3_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPadIOVdd_south IOVDD IOVSS VDD VSS sg13g2_IOPadIOVdd
XIO_FILL_IO_NORTH_7_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_NORTH_0_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[2\].io IOVDD IOVSS analog_io[2] sg13g2_IOPad_analog_io\[2\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
Xsg13g2_IOPad_digital_ui\[5\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[5\].io/p2c ui_PAD[5]
+ VDD VSS sg13g2_IOPadIn
XIO_FILL_IO_EAST_12_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_digital_ui\[1\].io ui_PAD[1] bondpad_70x70_novias
XIO_FILL_IO_SOUTH_1_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_digital_uo\[0\].io sg13g2_IOPad_digital_uo\[0\].io/c2p IOVDD IOVSS uo_PAD[0]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_FILL_IO_SOUTH_4_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_11_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[19\].io IOVDD IOVSS analog_io[19] sg13g2_IOPad_analog_io\[19\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_WEST_2_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[15\].io analog_io[15] bondpad_70x70_novias
XIO_FILL_IO_SOUTH_7_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[5\].io analog_io[5] bondpad_70x70_novias
XIO_FILL_IO_NORTH_10_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_0_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPadVss_west VSS bondpad_70x70_novias
XIO_FILL_IO_NORTH_13_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
Xsg13g2_IOPad_analog_io\[5\].io IOVDD IOVSS analog_io[5] sg13g2_IOPad_analog_io\[5\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_SOUTH_1_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_10_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_digital_uo\[3\].io sg13g2_IOPad_digital_uo\[3\].io/c2p IOVDD IOVSS uo_PAD[3]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_FILL_IO_SOUTH_13_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
XIO_BOND_sg13g2_IOPad_digital_ui\[4\].io ui_PAD[4] bondpad_70x70_novias
XIO_FILL_IO_EAST_10_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_10_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_9_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_2_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_13_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
XIO_FILL_IO_WEST_12_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[18\].io analog_io[18] bondpad_70x70_novias
Xsg13g2_IOPadVdd_south IOVDD IOVSS VDD VSS sg13g2_IOPadVdd
XIO_FILL_IO_EAST_5_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_0_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[8\].io analog_io[8] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPadVss_east VSS bondpad_70x70_novias
Xsg13g2_IOPadIOVss_south IOVDD IOVSS VDD VSS sg13g2_IOPadIOVss
XIO_FILL_IO_EAST_8_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[8\].io IOVDD IOVSS analog_io[8] sg13g2_IOPad_analog_io\[8\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
Xsg13g2_IOPadVss_west IOVDD IOVSS VDD VSS sg13g2_IOPadVss
XIO_CORNER_NORTH_EAST_INST IOVDD IOVSS VDD VSS sg13g2_Corner
XIO_FILL_IO_EAST_9_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_digital_uo\[6\].io sg13g2_IOPad_digital_uo\[6\].io/c2p IOVDD IOVSS uo_PAD[6]
+ VDD VSS sg13g2_IOPadOut30mA
Xsg13g2_IOPadIOVdd_north IOVDD IOVSS VDD VSS sg13g2_IOPadIOVdd
XIO_BOND_sg13g2_IOPad_digital_uo\[2\].io uo_PAD[2] bondpad_70x70_novias
Xsg13g2_IOPad_analog_io\[12\].io IOVDD IOVSS analog_io[12] sg13g2_IOPad_analog_io\[12\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_NORTH_7_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_10_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_12_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_13_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPadVss_east IOVDD IOVSS VDD VSS sg13g2_IOPadVss
XIO_FILL_IO_WEST_2_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_9_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_5_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_13_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPadVdd_west VDD bondpad_70x70_novias
Xsg13g2_IOPad_digital_ui\[1\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[1\].io/p2c ui_PAD[1]
+ VDD VSS sg13g2_IOPadIn
XIO_FILL_IO_EAST_7_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_CORNER_SOUTH_EAST_INST IOVDD IOVSS VDD VSS sg13g2_Corner
XIO_BOND_sg13g2_IOPad_digital_uo\[5\].io uo_PAD[5] bondpad_70x70_novias
XIO_FILL_IO_WEST_8_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_12_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_13_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_NORTH_13_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_CORNER_NORTH_WEST_INST IOVDD IOVSS VDD VSS sg13g2_Corner
Xsg13g2_IOPad_analog_io\[15\].io IOVDD IOVSS analog_io[15] sg13g2_IOPad_analog_io\[15\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_SOUTH_8_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPadVss_south IOVDD IOVSS VDD VSS sg13g2_IOPadVss
XIO_BOND_sg13g2_IOPad_analog_io\[11\].io analog_io[11] bondpad_70x70_novias
XIO_FILL_IO_NORTH_5_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_13_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
Xsg13g2_IOPadVdd_north IOVDD IOVSS VDD VSS sg13g2_IOPadIOVdd
XIO_BOND_sg13g2_IOPad_analog_io\[1\].io analog_io[1] bondpad_70x70_novias
XIO_FILL_IO_NORTH_10_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPadVdd_east VDD bondpad_70x70_novias
Xsg13g2_IOPadIOVss_north IOVDD IOVSS VDD VSS sg13g2_IOPadIOVss
XIO_FILL_IO_NORTH_2_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[1\].io IOVDD IOVSS analog_io[1] sg13g2_IOPad_analog_io\[1\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
Xsg13g2_IOPadVdd_west IOVDD IOVSS VDD VSS sg13g2_IOPadVdd
Xsg13g2_IOPad_digital_ui\[4\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[4\].io/p2c ui_PAD[4]
+ VDD VSS sg13g2_IOPadIn
XIO_FILL_IO_EAST_13_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_FILL_IO_WEST_7_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_digital_uo\[8\].io uo_PAD[8] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPad_digital_ui\[0\].io ui_PAD[0] bondpad_70x70_novias
XIO_FILL_IO_NORTH_5_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_5_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[18\].io IOVDD IOVSS analog_io[18] sg13g2_IOPad_analog_io\[18\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_SOUTH_10_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_8_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_2_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[14\].io analog_io[14] bondpad_70x70_novias
XIO_CORNER_SOUTH_WEST_INST IOVDD IOVSS VDD VSS sg13g2_Corner
XIO_FILL_IO_SOUTH_6_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_5_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[4\].io analog_io[4] bondpad_70x70_novias
XIO_FILL_IO_NORTH_3_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_12_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPadVdd_east IOVDD IOVSS VDD VSS sg13g2_IOPadVdd
Xsg13g2_IOPad_analog_io\[4\].io IOVDD IOVSS analog_io[4] sg13g2_IOPad_analog_io\[4\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_SOUTH_8_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_NORTH_11_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_digital_ui\[3\].io ui_PAD[3] bondpad_70x70_novias
Xsg13g2_IOPad_digital_uo\[2\].io sg13g2_IOPad_digital_uo\[2\].io/c2p IOVDD IOVSS uo_PAD[2]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_FILL_IO_WEST_5_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_11_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_3_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[17\].io analog_io[17] bondpad_70x70_novias
XIO_FILL_IO_EAST_0_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
Xsg13g2_IOPadVss_north IOVDD IOVSS VDD VSS sg13g2_IOPadIOVss
XIO_BOND_sg13g2_IOPad_analog_io\[7\].io analog_io[7] bondpad_70x70_novias
XIO_FILL_IO_EAST_11_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_4_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_3_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[7\].io IOVDD IOVSS analog_io[7] sg13g2_IOPad_analog_io\[7\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_EAST_13_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_1_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_6_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_digital_uo\[5\].io sg13g2_IOPad_digital_uo\[5\].io/c2p IOVDD IOVSS uo_PAD[5]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_BOND_sg13g2_IOPad_digital_ui\[6\].io ui_PAD[6] bondpad_70x70_novias
XIO_FILL_IO_EAST_9_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_digital_uo\[1\].io uo_PAD[1] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPadIOVdd_south IOVDD bondpad_70x70_novias
XIO_FILL_IO_WEST_3_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[11\].io IOVDD IOVSS analog_io[11] sg13g2_IOPad_analog_io\[11\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_EAST_1_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_2_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPadVdd_south VDD bondpad_70x70_novias
XIO_FILL_IO_WEST_0_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
Xsg13g2_IOPad_digital_ui\[0\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[0\].io/p2c ui_PAD[0]
+ VDD VSS sg13g2_IOPadIn
Xsg13g2_IOPad_digital_uo\[8\].io sg13g2_IOPad_digital_uo\[8\].io/c2p IOVDD IOVSS uo_PAD[8]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_BOND_sg13g2_IOPad_digital_uo\[4\].io uo_PAD[4] bondpad_70x70_novias
XIO_FILL_IO_EAST_11_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_3_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_0_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_13_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[14\].io IOVDD IOVSS analog_io[14] sg13g2_IOPad_analog_io\[14\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_WEST_6_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_1_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[10\].io analog_io[10] bondpad_70x70_novias
XIO_FILL_IO_WEST_9_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[0\].io analog_io[0] bondpad_70x70_novias
Xsg13g2_IOPadIOVss_west IOVDD IOVSS VDD VSS sg13g2_IOPadIOVss
Xsg13g2_IOPad_analog_io\[0\].io IOVDD IOVSS analog_io[0] sg13g2_IOPad_analog_io\[0\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
Xsg13g2_IOPad_digital_ui\[3\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[3\].io/p2c ui_PAD[3]
+ VDD VSS sg13g2_IOPadIn
XIO_FILL_IO_SOUTH_0_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_0_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_FILL_IO_NORTH_0_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
XIO_BOND_sg13g2_IOPad_digital_uo\[7\].io uo_PAD[7] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPadIOVss_south IOVSS bondpad_70x70_novias
XIO_FILL_IO_NORTH_8_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_3_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[17\].io IOVDD IOVSS analog_io[17] sg13g2_IOPad_analog_io\[17\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_BOND_sg13g2_IOPadIOVdd_north IOVDD bondpad_70x70_novias
XIO_FILL_IO_WEST_11_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[13\].io analog_io[13] bondpad_70x70_novias
XIO_FILL_IO_NORTH_13_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_NORTH_6_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_0_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
XIO_BOND_sg13g2_IOPad_analog_io\[3\].io analog_io[3] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPadVss_south VSS bondpad_70x70_novias
XIO_FILL_IO_WEST_0_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPadIOVss_east IOVDD IOVSS VDD VSS sg13g2_IOPadIOVss
XIO_FILL_IO_NORTH_9_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[3\].io IOVDD IOVSS analog_io[3] sg13g2_IOPad_analog_io\[3\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_WEST_10_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_3_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_digital_ui\[6\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[6\].io/p2c ui_PAD[6]
+ VDD VSS sg13g2_IOPadIn
XIO_BOND_sg13g2_IOPadIOVss_west IOVSS bondpad_70x70_novias
Xsg13g2_IOPad_digital_uo\[1\].io sg13g2_IOPad_digital_uo\[1\].io/c2p IOVDD IOVSS uo_PAD[1]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_BOND_sg13g2_IOPadVdd_north IOVDD bondpad_70x70_novias
XIO_FILL_IO_WEST_13_20 IOVDD IOVSS VDD VSS sg13g2_Filler1000
XIO_FILL_IO_EAST_8_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_digital_ui\[2\].io ui_PAD[2] bondpad_70x70_novias
XIO_FILL_IO_SOUTH_6_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_13_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_9_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_9_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_0_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_FILL_IO_NORTH_12_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_NORTH_6_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[16\].io analog_io[16] bondpad_70x70_novias
XIO_BOND_sg13g2_IOPad_analog_io\[6\].io analog_io[6] bondpad_70x70_novias
XIO_FILL_IO_NORTH_11_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_12_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPadIOVss_east IOVSS bondpad_70x70_novias
Xsg13g2_IOPad_analog_io\[6\].io IOVDD IOVSS analog_io[6] sg13g2_IOPad_analog_io\[6\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_NORTH_0_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_8_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_EAST_1_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_EAST_12_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPadIOVdd_west IOVDD IOVSS VDD VSS sg13g2_IOPadIOVdd
XIO_BOND_sg13g2_IOPad_digital_ui\[5\].io ui_PAD[5] bondpad_70x70_novias
Xsg13g2_IOPad_digital_uo\[4\].io sg13g2_IOPad_digital_uo\[4\].io/c2p IOVDD IOVSS uo_PAD[4]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_FILL_IO_EAST_4_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_digital_uo\[0\].io uo_PAD[0] bondpad_70x70_novias
XIO_FILL_IO_EAST_6_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_11_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPadIOVss_north IOVSS bondpad_70x70_novias
Xsg13g2_IOPad_analog_io\[10\].io IOVDD IOVSS analog_io[10] sg13g2_IOPad_analog_io\[10\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_EAST_7_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_SOUTH_0_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_BOND_sg13g2_IOPad_analog_io\[19\].io analog_io[19] bondpad_70x70_novias
XIO_FILL_IO_SOUTH_7_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_BOND_sg13g2_IOPad_analog_io\[9\].io analog_io[9] bondpad_70x70_novias
XIO_FILL_IO_NORTH_0_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_FILL_IO_NORTH_4_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[9\].io IOVDD IOVSS analog_io[9] sg13g2_IOPad_analog_io\[9\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
Xsg13g2_IOPadIOVdd_east IOVDD IOVSS VDD VSS sg13g2_IOPadIOVdd
XIO_BOND_sg13g2_IOPadVss_north IOVSS bondpad_70x70_novias
XIO_FILL_IO_WEST_13_25 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_digital_uo\[7\].io sg13g2_IOPad_digital_uo\[7\].io/c2p IOVDD IOVSS uo_PAD[7]
+ VDD VSS sg13g2_IOPadOut30mA
XIO_BOND_sg13g2_IOPadIOVdd_west IOVDD bondpad_70x70_novias
XIO_FILL_IO_WEST_6_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_SOUTH_0_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_BOND_sg13g2_IOPad_digital_uo\[3\].io uo_PAD[3] bondpad_70x70_novias
XIO_FILL_IO_EAST_4_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_1_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
Xsg13g2_IOPad_analog_io\[13\].io IOVDD IOVSS analog_io[13] sg13g2_IOPad_analog_io\[13\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_WEST_4_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_WEST_13_27 IOVDD IOVSS VDD VSS sg13g2_Filler200
XIO_FILL_IO_SOUTH_5_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
XIO_FILL_IO_WEST_7_20 IOVDD IOVSS VDD VSS sg13g2_Filler400
XIO_FILL_IO_NORTH_2_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_digital_ui\[2\].io IOVDD IOVSS sg13g2_IOPad_digital_ui\[2\].io/p2c ui_PAD[2]
+ VDD VSS sg13g2_IOPadIn
XIO_BOND_sg13g2_IOPadIOVdd_east IOVDD bondpad_70x70_novias
XIO_BOND_sg13g2_IOPad_digital_uo\[6\].io uo_PAD[6] bondpad_70x70_novias
XIO_FILL_IO_WEST_4_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
Xsg13g2_IOPad_analog_io\[16\].io IOVDD IOVSS analog_io[16] sg13g2_IOPad_analog_io\[16\].io/padres
+ VDD VSS sg13g2_IOPadAnalog
XIO_FILL_IO_EAST_2_0 IOVDD IOVSS VDD VSS sg13g2_Filler4000
.ends

